US07498346B2
3,5-Dimethyl-N-((R)-3-{4-[(4-methyl-pyridin-3-ylmethyl)-phenyl-amino]-piperidin-1-yl}-butyl)-terephthalamic acid (50.0 mg, 0.09 mmol), EDCI (19.9 mg, 0.10 mmol) and HOBT (14.1 mg, 0.10 mmol) were combined in DMF (4 mL) to give a pale yellow solution. To this solution was added isopropylamine (8.9 μL, 0.10 mmol) followed by DIPEA (19.7 μL, 0.11 mmol) and the resulting mixture was stirred at room temperature for 16 h. Standard workup according to General Procedure C gave the crude product as a tan oil. Purification by preparative TLC (91:8:1, CH2Cl2/MeOH/NH4OH) afforded N′-isopropyl-2,6-dimethyl-N-((R)-3-{4-[(4-methyl-pyridin-3-ylmethyl)-phenyl-amino]-piperidin-1-yl}-butyl)-terephthalamide as a white foam (10.1 mg, 19%). 1H NMR (CDCl3) δ 1.02 (br s, 3H), 1.22 (d, 6H, J=7 Hz), 1.83 (m, 3H), 2.22 (m, 1H), 2.29 (s, 3H), 2.34 (s, 6H), 2.55 (m, 1H), 2.80 (m, 4H), 3.38 (m, 1H), 3.62 (m, 1H), 3.76 (m, 1H), 4.10 (s, 2H), 4.23 (sext, 1H, J=6 Hz), 6.04 (d, 1H, J=7 Hz), 6.59 (d, 2H, J=8 Hz), 6.72 (t, 1H, J=7 Hz), 7.05 (d, 1H, J=5 Hz), 7.16 (t, 2H, J=8 Hz), 7.34 (br s, 1H), 7.39 (s, 2H), 8.27 (s, 1H), 8.33 (d, 1H, J=5 Hz). ES-MS m/z 570 (M+H), 593 (M+Na). Anal. Calcd. For C35H47N5O2: C, 73.78; H, 8.31; N, 12.29.

reactant | 3,5-Dimethyl-N-((R)-3-{4-[(4-methyl-pyridin-3-ylmethyl)-phenyl-amino]-piperidin-1-yl}-butyl)-terephthalamic acid | 0.09 mmol, 50.0 mg | CC=1C=C(C(=O)O)C=C(C1C(=O)NCC[C@@H](C)N1CCC(CC1)N(C1=CC=CC=C1)CC=1C=NC=CC1C)C | C32H40N4O3
reactant | EDCI | 0.10 mmol, 19.9 mg | CCN=C=NCCCN(C)C | C8H17N3
reactant | HOBT | 0.10 mmol, 14.1 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | isopropylamine | 0.10 mmol, 8.9 μL | C(C)(C)N | C3H9N
reactant | DIPEA | 0.11 mmol, 19.7 μL | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
product | N′-isopropyl-2,6-dimethyl-N-((R)-3-{4-[(4-methyl-pyridin-3-ylmethyl)-phenyl-amino]-piperidin-1-yl}-butyl)-terephthalamide | 10.1 mg, 19% | C(C)(C)NC(C1=CC(=C(C(=O)NCC[C@@H](C)N2CCC(CC2)N(C2=CC=CC=C2)CC=2C=NC=CC2C)C(=C1)C)C)=O | C35H47N5O2
